Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Betadine / Cymbalta / Lyrica
 
Attending: ___
 
Chief Complaint:
facial droop and dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ old woman with a history of lumbar
fracture s/p discectomy, fusion and chronic pain now s/p spinal
cord stimulator who presents with headache, dizziness, diplopia
and left facial droop. These symptoms were episodic and are now
continuous.

___ had the first of these episodes seven months ago. She was
in her normal state of health. She was driving and had the 
sudden
onset of feeling hot, flushed, and sweaty. She started to see
double and she was veering in the lanes. She pulled over and a
cop called EMS. When she got out of her car she required help
because she was weak all over. She had a throbbing headache and 
a
sensation of spinning. She was taken to ___; her
symptoms resolved after 30 minutes and she was started on 
aspirin
for a TIA.

The second episode was one month ago while she was gambling.
Again, she felt flushed and sweaty. She had the sensation of
spinning and she was nauseated. She vomited and was incontinent
of stool and urine but did not lose consciousness. She did not 
go
to the hospital because she was in a different state. Her
symptoms resolved after 30 minutes.

Six days ago she was at home making soup when she again became
hot, sweaty and dizzy. She was vertiginous and was having
difficulty walking. She called EMS after her symptoms lasted for
longer than 20 minutes. On the way to the door to let them in,
she was close to falling several times. This time, her symptoms
did not resolve completely and she had persistent facial droop
and vertigo. She was taken to ___ where she had
CT head which was normal, EKG with normal sinus rhythm, and a
lumbar puncture. She received a dose of doxycycline given 
concern
for Lyme. She was started on prednisone for Bell's Palsy. She
continued to have severe dizziness. She had multiple CT scans
which were normal. She requested transfer to ___.

According to the patient these are the only headaches she has
ever had although notes from her prior hospitalization describe
___ years of migraines. These headaches are unilateral
(left-sided), throbbing and associated with photophonophobia as
well as nausea. She has had some unilateral eye redness and
lacrimation as well.

Regarding her back pain, this is quite severe with radiation 
down
her left leg. The pain will come in paroxisms causing her to
"black out." The spinal stimulator was implanted eleven months
ago and serves to "entertain her" by ditracting her fom the 
pain.
However, she is concerned in two respects. First, she feels that
the stimulaator makes her arms seize up when she goes to make a
fast movement. Second, she has a pain in her stomach above the
umbilicus. She has made several trials with and without the
stimulator running and is confident that these symptoms stem 
from
the stimulator. She has also been receiving injections from Dr.
___ ___.

Review of systems was notable as above, otherwise negative or
non-contributory.
 
Past Medical History:
PMHx/PSHx:
- h/o lumbar fracture s/p L3-4 discectomy, fusion 
- post-laminectomy syndrome with spinal cord stimulator ___
- lumbar left sided medial branch block in ___
- transforaminal epidural steroid inj ___ and ___
- tubal ligation
 
Social History:
___
Family History:
FHx: multiple cancers (breast, lung, prostate), father with 
heart
problems, sister with migraines.
 
Physical Exam:
ADMISSION EXAM:

T 98.4; BP 151/84 / 52 / 100%RA
General: Overweight woman lying in bed in NAD.
Head: Normocephalic, atraumatic, no scleral injection or 
icterus.
Neck: Supple, no meningismus.
CV: S1/S2 appreciated, RRR, no M/R/G
Resp: CTAB
Abd: Obese, soft, non-tender, non-distracted.
MSK: No swelling or erythema of joints.
Skin: No rashes or lesions.
Ext: No lower extremity edema

Neurologic:
MS: Patient was oriented to person, place and date. Her speech
was fluent with no paraphsic errors. Repetition and naming was
intact. She was attentive to reciting months of the year
backwards. She gave a tangential history but was able to answer
specific questions. Overall her examination fluctuated and was
quite distractible.
CN: PERRL, no RAPD. Extraocular movement full on lateral gaze
with sustained end-gaze nystagmus in both directions. Decreased
upgaze on R in both abducted and adducted positions. Decreased
sensation to light touch and cold on L half of face,
hyperesthesia in L C2 distribution. Decreased activation on L
face in lower motor neuron pattern. 
Motor: Normal bulk. Whole body shaking which came and went. No
asterixis. No pronator drift. Strength decreased in multiple
muscles, distal > proximal in LUE. Right arm orbits left.

DTR: ___ in upper extremities, R biceps slightly brisker than L.
R patellar reflex 2, no crossed adductors, could not test L due
to hyperesthesia, ankle jerks absent bilaterally. Toes downgoing
bilaterally.

Sensory: Decreased sensation to temperature over C5-C8
distribution in L arm. Normal vibration and proprioception.
Hyperesthesia in unclear distribution in LLE.

Coordination: FNF without intention tremor, rapid alternating
movements cadence is slightly off.

Gait: Not tested due to patient distress.

DISCHARGE EXAM
VS T98.0 HR54-74 ___ RR18 Sat99%RA
GEN - sitting up in bed, eating breakfast, appears comfortable
CV - RRR, extremities warm and well perfused
RESP - normal WOB
ABD - soft, non-tender, non-distended

Neurological Exam
MS - A&Ox3, able to discuss hospital course and treatment plan 
in depth
CN - VFF, PERRL, EOMI with gaze-evoked nystagmus R>L, ?mild 
limited elevation of R eye, variable sensory changes reported 
over the face (symmetric across the forehead, L V2&3 
distributions with increased temperature sensation), flattening 
of L NLF at rest, decreased activation of musculature of left 
face (forehead, eye, mouth), tongue is midline with full ROM, 
palate elevates symmetric, unable to test SCMs secondary to 
compliance/pain
MOTOR - normal bulk and tone, moves all extremities antigravity 
and symmetric, only able to assess RUE, LUE, and RLE (full 
power), cannot tolerate strength exam on LLE secondary to pain
SENSORY - reacts to light touch in all extremitys, extreme 
allodynia with any stimulation of the LLE
COORD - FNF intact, some past-pointing to the L bilaterally in 
upper extremities on blinded finger-to-finger
GAIT - (per physical therapy) Pt stands from EOB with mod cuing 
for sequencing and safe UE use with RW, pt immediately lets go 
of RW to pull the sleeve of her shirt down and looses balance 
anteriorly requiring mod A to right. pt requires max cuing for 
safety with functional mobility, pt ambulates 50ft with ataxic 
gait, decreased B knee extension, increased reliance on AD, 
increased forward bend, decreased cadence, step length, 
decreased foot clearance.
unsteady gait requiring min to mod A especially with turns in 
the hallway with RW. pt c/o worsening "pressure" on her L side 
with ambulation.
 
Pertinent Results:
___ 07:35AM BLOOD WBC-8.9 RBC-3.90* Hgb-12.1 Hct-35.4* 
MCV-91 MCH-31.0 MCHC-34.2 RDW-13.8 Plt ___
___ 07:35AM BLOOD Neuts-48.5* Lymphs-44.1* Monos-5.1 
Eos-2.0 Baso-0.3
___ 07:35AM BLOOD ___
___ 07:35AM BLOOD Glucose-86 UreaN-13 Creat-0.7 Na-144 
K-3.8 Cl-103 HCO3-30 AnGap-15
___ 07:35AM BLOOD ALT-239* AST-54* AlkPhos-79 TotBili-0.3
___ 07:35AM BLOOD Albumin-3.9 Calcium-9.3 Phos-5.6* Mg-2.1

___ CTA HEAD, CT HEAD without contrast
No acute intracranial process. Dural based area of calcification 
near 
the vertex on the left and may represent a calcified meningioma. 

CTA head: Carotid or vertebral arteries and their major branches 
are patent without evidence of conclusion or major aneurysm. No 
evidence of vascular malformation. 

___ CT ORBITS, SELLA, IAC with contrast
Normal temporal bone study without findings concerning for IAC 
lesion.
 
Brief Hospital Course:
Ms. ___ is a ___ old woman with complicated history of 
lumbar fracture s/p multiple spine surgeries, chronic pain and 
s/p spinal cord stimulator who present with episodes of 
hot/flushing, vertigo, headache, ?visual changes as well as left
facial droop. Her work up at OSH was reportedly negative with 
normal head CT and reassuring CSF. Despite low suspicion, we 
have asked the OSH to also add MS panel to CSF studies, will 
follow up this result.
Her neurologic examination was complicated by pain but she 
clearly as peripheral L facial nerve palsy and she has sustained 
nystagmus without clear eye movement abnormality or new 
diplopia. She did describe triple vision on history, which is 
difficult to explain from brainstem lesion. The sensory 
examination was unfortunately mixed and does not assist much in 
localization. Her motor exam in the upper extremities was 
reassuring, though it was difficult to test for long tract signs 
in lower extremities given her effort. Her gait examination 
shows some functional component with significant swaying without 
actually falling and perhaps some improvement with distraction. 
Admission focused on exluding dangerous causes of repeated 
episodes of facial droop and vertigo. CT scan of the ___ was 
done (with contrast) and reported as normal (neurology's review 
was also normal). CTA was also performed to assess for any 
vascular malformation, ischemic lesions, or other vascular 
causes that may explain her symptoms. CTA was also reported as 
normal. With these results as well as a normal CSF profile at 
OSH, we plan to discharge to rehab. 
Presumptive diagnosis is left Bell's palsy with ___ nerve 
irritation as well. Alternative diagnoses were considered: mass 
lesion (evaluated w imaging), vascular lesion (evaluated w CTA), 
CNS infection (imaging, CSF), multiple sclerosis (CSF studies 
pending; though note that though lesions are separated in time, 
they are not separated in space), and atypical migraine (the 
patient currently reports a headache but has no prior headache 
history).
Ms. ___ was started on prednisone 40mg at OSH. Steroids were 
continued after admission to ___. Will discharge on 6 day 
taper.
As far as her chronic pain issues and spinal cord stimulator is 
concerned, our team reached out to Dr. ___ pain 
physician). He suggested that Ms. ___ call the ___ company 
rep to schedule an adjustment of her stimulator - this can occur 
at rehab or in clinic. This was communicated to Ms. ___, who 
stated that she does have the phone number of the rep but will 
also contact Dr. ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 1200 mg PO TID 
2. Zolpidem Tartrate 5 mg PO QHS 
3. Aspirin 81 mg PO DAILY 
4. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
5. PredniSONE 40 mg PO DAILY 
Tapered dose - DOWN 
6. Acetaminophen 650 mg PO Q4H:PRN pain 
7. Tizanidine 4 mg PO TID 
8. Diazepam 5 mg PO Q6H:PRN vertigo 
9. Ondansetron 4 mg IV Q8H:PRN nausea 
10. Calcium Carbonate 500 mg PO TID 
11. Vitamin D 1000 UNIT PO DAILY 
12. Fish Oil (Omega 3) 1000 mg PO DAILY 
13. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 500 mg PO TID 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Gabapentin 1200 mg PO TID 
6. Diazepam 5 mg PO Q6H:PRN vertigo 
7. Famotidine 20 mg PO BID 
8. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
9. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. PredniSONE 30 mg PO DAILY Duration: 2 Doses 
Start: Tomorrow - ___, First Dose: First Routine 
Administration Time 
Tapered dose - DOWN 
12. PredniSONE 20 mg PO DAILY Duration: 2 Doses 
Start: After 30 mg tapered dose 
Tapered dose - DOWN 
13. PredniSONE 10 mg PO DAILY Duration: 2 Doses 
Start: After 20 mg tapered dose 
Tapered dose - DOWN 
14. Tizanidine 4 mg PO TID 
15. Vitamin D 1000 UNIT PO DAILY 
16. Zolpidem Tartrate 5 mg PO QHS 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Bell's palsy with likely involvement of the left ___ 
cranial nerve 
Secondary: lumbar fracture with chronic back pain and 
radiculopathy s/p spinal stimulator, chronic left lower 
extremity pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized for symptoms of left facial droop and 
dizziness. After performed a series of laboratory and imaging 
tests, we have excluded diagnoses that would need urgent 
intervention (i.e. mass, vascular lesion). We believe that the 
most likely cause for your symptoms is a Bell's palsy - or an 
inflammation of the ___ cranial nerve, most commonly caused by a 
viral infection. In some cases this inflammation can also affect 
the ___ cranial nerve, leading to dizziness. There is no 
specific therapy for Bell's palsy. We will provide you with a 
short steroid taper that can help to decrease some of the 
inflammation around the nerve. However, it may be several weeks 
before you notice sizeable improvements and return to baseline.
We also contacted Dr. ___ your hospitalization 
regarding your spinal cord stimulator. He suggested that you use 
the provided contact number for the local representative to set 
up an appointment to have the stimulator adjusted. This can 
occur at the rehab facility or in clinic.
Please follow up in neurology clinic as instructed below.
It was a pleasure caring for you during this hospitalization.
 
Followup Instructions:
___